US04174454
Fifty grams of 4-amino-3-nitrobenzophenone were hydrogenated at room temperature in 945 ml. of tetrahydrofuran with 15 g. of Raney nickel at 2.74×106 dynes/cm.2. After 4 hours three equivalents of hydrogen were absorbed. The catalyst was filtered and the filtrate was evaporated in vacuo to a solid residue. The residue was chromatographed over silica gel using ethyl acetate as eluant. Fractions 5-9 were combined to yield 43.6 g. (100 percent yield) of 3,4-diaminobenzophenone.

reactant | 4-amino-3-nitrobenzophenone | Fifty grams | NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | hydrogen | three equivalents | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-diaminobenzophenone | 100 percent yield | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H12N2O
